US04198412
Pyrazolo[1,5-c]quinazoline-2-carboxylic acid
3.0 g (0.0148 mole) of 5-(2-aminophenyl)-1H-pyrazole-3-carboxylic acid is suspended in 21 ml of 97+% HCOOH, and the reaction mixture heated in an oil bath at 100° for 2 hours. The reaction mixture is cooled, diluted with water (75 ml), stirred for 30 minutes and filtered, washing the precipitates well with water. The crude product is dried overnight in vacuo at 90°. Yield: 2.9 g. Percent crude yield: 91.8%.

reactant | 5-(2-aminophenyl)-1H-pyrazole-3-carboxylic acid | 0.0148 mole, 3.0 g | NC1=C(C=CC=C1)C1=CC(=NN1)C(=O)O | C10H9N3O2
reactant | HCOOH | C(=O)O | CH2O2
solvent | water | 75 ml | O | H2O
product | Pyrazolo[1,5-c]quinazoline-2-carboxylic acid | C=1C(=NN2C=NC=3C=CC=CC3C21)C(=O)O | C11H7N3O2
